US08629160B2
A mixture of 2-bromo-1-phenylethanone (44.8 mg, 0.22 mmol) and (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(2-ethylphenylamino)acetate (C44) (86 mg, 0.20 mmol) in EtOAc (3 ml) was heated under microwave irradiation at 100° C. for 1 hour. 2-Bromo-1-phenylethanone (44.8 mg, 0.22 mmol) was added, and the mixture was heated at 100° C. under microwave irradiation for an additional hour. The solvent was evaporated, and the crude product was triturated with Et2O to collect (3R)-3-(2-(benzo[b]thiophen-3-yl)-2-(2-ethylphenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide (44.6 mg, 35.2% yield).

reactant | 2-bromo-1-phenylethanone | 0.22 mmol, 44.8 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(2-ethylphenylamino)acetate | 0.20 mmol, 86 mg | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NC3=C(C=CC=C3)CC)C=CC=C2 | C25H28N2O2S
reactant | 2-Bromo-1-phenylethanone | 0.22 mmol, 44.8 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(benzo[b]thiophen-3-yl)-2-(2-ethylphenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 44.6 mg, 35.2% yield | [Br-].S1C2=C(C(=C1)C(C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C3=CC=CC=C3)=O)NC3=C(C=CC=C3)CC)C=CC=C2 | InChI=1S/C33H35N2O3S.BrH/c1-2-23-10-6-8-14-28(23)34-32(27-22-39-31-15-9-7-13-26(27)31)33(37)38-30-21-35(18-16-25(30)17-19-35)20-29(36)24-11-4-3-5-12-24;/h3-15,22,25,30,32,34H,2,16-21H2,1H3;1H/q+1;/p-1/t25?,30-,32?,35?;/m0./s1
